US03941782
4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[3-(piperidino)-propionyloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]-benzopyran hydrochloride
2.8 g. (8.2 mmoles) of 4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran, 1.77 g. (8.6 mmoles) of dicyclohexylcarbodiimide and 1.65 g. (8.5 mmoles) of β-piperidinopropionic acid hydrochloride (m.p. 216°-220°C., J. Am. Chem. Soc. 73, 3168 (1951) were combined with 125 ml. of methylene chloride and stirred at room temperature for about 20 hours. The reaction mixture was filtered and the methylene chloride removed using a rotary evaporator. The residue was treated with benzene and filtered to remove a small quantity of insoluble material. The benzene was evaporated and the dark, viscous residue was chromatographed using 100 g. of 60-100 mesh activated magnesium silicate (Florisil) and methanol/chloroform graded solvent mixtures. Chromatography gave a small quantity of orange oil which was dissolved in ether and treated with a solution of ethereal HCl. The desired compound appeared as white crystals which were filtered and washed with additional ether. The colorless crystals (86 mg., m.p. 106°-107°C.) were pure by thin layer chromatography (10% MeOH/CHCl3) and the nuclear magnetic resonance and infrared spectra were in agreement with the proposed structure.

reactant | 4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran | 8.2 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C23H34O2
reactant | dicyclohexylcarbodiimide | 8.6 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | β-piperidinopropionic acid hydrochloride | 8.5 mmoles | Cl.N1(CCCCC1)CCC(=O)O
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[3-(piperidino)-propionyloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]-benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(CCN2CCCCC2)=O)C | InChI=1S/C31H47NO3.ClH/c1-6-7-9-13-22(2)23(3)24-20-27(34-29(33)16-19-32-17-10-8-11-18-32)30-25-14-12-15-26(25)31(4,5)35-28(30)21-24;/h20-23H,6-19H2,1-5H3;1H
